US08664258B2
Trifluoroacetic anhydride (0.35 mL, 2.49 mmol) was added to a solution of 3-(4-bromo-2-methyl-2H-pyrazol-3-yl)-4-(2-methyl-2-nitropropoxy)aniline (836 mg, 2.26 mmol) and N,N-diisopropylethylamine (0.44 mL, 2.49 mmol) in dichloromethane, and the solution was stirred at room temperature. After 4 h, the solution was diluted with dichloromethane (30 mL) washed with water and dried with sodium sulfate. Flash chromatography (ethyl acetate-hexanes 1:2) afforded N-(3-(4-bromo-2-methyl-2H-pyrazol-3-yl)-4-(2-methyl-2-nitropropoxy)phenyl)-2,2,2-trifluoroacetamide as a pale yellow foam (889 mg, 1.91 mmol, 85%). LCMS m/z (%)=467.4 (M+H 81Br 26.3%), 465.2 (M+H 79Br 31.5%). 1H NMR (400 MHz, CDCl3) δ ppm 1.49 (s, 3 H), 1.56 (s, 3 H), 3.62 (s, 3 H), 4.00 (d, J=9.85 Hz, 1 H), 4.50 (d, J=9.60 Hz, 1 H), 7.07 (d, J=9.09 Hz, 1 H), 7.41 (d, J=2.78 Hz, 1 H), 7.53 (s, 1 H), 7.78 (dd, J=9.09, 2.78 Hz, 1 H), 7.95 (s, 1 H), (100.0%).

reactant | Trifluoroacetic anhydride | 2.49 mmol, 0.35 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 3-(4-bromo-2-methyl-2H-pyrazol-3-yl)-4-(2-methyl-2-nitropropoxy)aniline | 2.26 mmol, 836 mg | BrC1=C(N(N=C1)C)C=1C=C(N)C=CC1OCC(C)([N+](=O)[O-])C | C14H17BrN4O3
reactant | N,N-diisopropylethylamine | 2.49 mmol, 0.44 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | N-(3-(4-bromo-2-methyl-2H-pyrazol-3-yl)-4-(2-methyl-2-nitropropoxy)phenyl)-2,2,2-trifluoroacetamide | 1.91 mmol, 889 mg, 85% | BrC1=C(N(N=C1)C)C=1C=C(C=CC1OCC(C)([N+](=O)[O-])C)NC(C(F)(F)F)=O | C16H16BrF3N4O4
